### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/ConvexSpace): show AffineSpace is a ConvexSpace

### PR DESCRIPTION
**Pull request by kim-em**
This PR shows that every affine space is a convex space, resolving a TODO item in `Mathlib.LinearAlgebra.ConvexSpace`.

The key components are:
- `AddTorsor.convexCombination`: convex combination using `affineCombination`
- `convexCombination_single`: unit law for convex combinations
- `convexCombination_assoc`: associativity law (monadic join)
- `AddTorsor.instConvexSpace`: the `ConvexSpace R P` instance

🤖 Prepared with Claude Code

### CODE REVIEW

**Comment by kim-em** [comment]
@botbaki help

**Comment by kim-em** [comment]
**Botbaki Commands**

| Command | Description |
|---------|-------------|
| `@botbaki review` | Generate an AI review of this PR |
| `@botbaki review --diff-only` | Review only the diff (no timeline context) |
| `@botbaki help` | Show this help message |

Reviews are generated by Claude and cached per commit+prompt version.

**Comment by kim-em** [comment]
@botbaki review

**Comment by kim-em** [comment]
@-

**Comment by kim-em** [comment]
@botbaki review

**Comment by kim-em** [comment]
@kim-em Here's my review of this PR at commit `de9bc412`:

### Issues

1. **Missing module declaration**: New mathlib4 files should have a `module` keyword at the top before imports. This file is missing the module declaration.

2. **Line 46-48**: The `@` explicit application with many underscores is verbose. Consider using `_root_.` prefix or restructuring to avoid this pattern:
```lean
  have hL := @Finset.affineCombination_eq_weightedVSubOfPoint_vadd_of_sum_eq_one R V P _ _ _ _
    P (f.map convexCombination).weights.support (f.map convexCombination).weights id
    (f.map convexCombination).total b
```

3. **Line 78**: The `let` binding for `h` is only used twice and could be inlined or the proof restructured to avoid the manual manipulation.

4. **Line 83-84**: The `simp only [Finsupp.sum] at h_rhs ⊢` followed by `rw [h_rhs]` could potentially be combined.

### Suggestions

1. **Lines 35-39**: The proof of `convexCombination_single` uses `refine` with a wildcard `?_` for a single goal. Consider using `exact` with a complete term or restructuring:
```lean
theorem convexCombination_single (x : P) :
    convexCombination (StdSimplex.single x : StdSimplex R P) = x := by
  simp only [convexCombination, StdSimplex.single]
  rw [Finsupp.support_single_ne_zero _ one_ne_zero]
  exact ({x} : Finset P).affineCombination_of_eq_one_of_eq_zero _ _
    (Finset.mem_singleton_self x) Finsupp.single_eq_same fun j _ hne => Finsupp.single_eq_of_ne hne
```

2. **Lines 87-91**: The `by_cases` branch with `hd : f.weights d = 0` has an asymmetric structure. The second branch uses `intro hp hp'` which could be clearer as a nested `fun hp hp' => ...` or with explicit `simp` configuration.

3. **Line 56**: The comment `-- Rewrite LHS using sum_mapDomain_index` is helpful, but similar comments for other key steps would improve readability of this complex proof.

4. **Lines 58-65**: The `conv_lhs` block spans multiple lines. Consider whether this can be simplified using `simp_rw` or `conv` with cleaner syntax.

---
*Generated by botbaki*

**Comment by kim-em** [comment]
@kim-em Thanks for the feedback! I've recorded it for review #4.

File: Mathlib/LinearAlgebra/ConvexSpace/AffineSpace.lean [hunk 1]
```diff
@@ -0,0 +1,136 @@
...
+    ext p
+    simp only [Finsupp.mem_support_iff, ne_eq]
+    constructor
+    · intro hp
+      exact (mul_pos ((f.nonneg d).lt_of_ne' hd) ((d.nonneg p).lt_of_ne' hp)).ne'
+    · intro hp hp'
+      simp only [Finsupp.coe_smul, Pi.smul_apply, smul_eq_mul, hp', mul_zero,
+        not_true_eq_false] at hp
+
+public instance instConvexSpace : ConvexSpace R P where
```
Comment (plp127) [inline Mathlib/LinearAlgebra/ConvexSpace/AffineSpace.lean:98]: Do we get a diamond when R = V = P?

Comment (ocfnash) [reply Mathlib/LinearAlgebra/ConvexSpace/AffineSpace.lean:98]: @plp127 I agree this smells like there could be a diamond but I don't see it, can you?

File: Mathlib/LinearAlgebra/ConvexSpace/AffineSpace.lean [hunk 2]
```diff
@@ -0,0 +1,136 @@
...
+  convexCombination := convexCombination
+  single := convexCombination_single
+  assoc := convexCombination_assoc
+
+/-- `ConvexSpace.convexCombination` in an affine space is the affine combination. -/
+public theorem convexCombination_eq_affineCombination (s : StdSimplex R P) :
+    @ConvexSpace.convexCombination R P _ _ _ instConvexSpace s =
+      s.weights.support.affineCombination R id s.weights := by
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/ConvexSpace/AffineSpace.lean]: How about:
```suggestion
    letI : ConvexSpace R P := instConvexSpace
    ConvexSpace.convexCombination s = s.weights.support.affineCombination R id s.weights := by
```

File: Mathlib/LinearAlgebra/ConvexSpace/AffineSpace.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/ConvexSpace/AffineSpace.lean:98]: @kim-em Is this instance definitely OK even though `V` is not determined by the output type? I guess this is the reason why we need to supply the instance manually on line 105 below.

Comment (plp127) [reply Mathlib/LinearAlgebra/ConvexSpace/AffineSpace.lean:98]: We get a natural `ConvexSpace R R` instance for every `R` given by taking the convex combinations to be the linear combinations, and we also get a `Module R R` and a `AddTorsor R R`.

Comment (ocfnash) [reply Mathlib/LinearAlgebra/ConvexSpace/AffineSpace.lean:98]: > We get a natural `ConvexSpace R R` instance for every `R` given by taking the convex combinations to be the linear combinations, and we also get a `Module R R` and a `AddTorsor R R`.

@plp127 Right but we haven't registered that as an instance so _that_ would be the offending instance rather than this one, right?

File: Mathlib/LinearAlgebra/ConvexSpace/AffineSpace.lean (hunk 2 above)
Comment (kim-em) [reply Mathlib/LinearAlgebra/ConvexSpace/AffineSpace.lean]: Done, thanks! (77ce3acadb)

File: Mathlib/LinearAlgebra/ConvexSpace/AffineSpace.lean (hunk 1 above)
Comment (kim-em) [reply Mathlib/LinearAlgebra/ConvexSpace/AffineSpace.lean:98]: I agree with @ocfnash's analysis — this instance is fine as-is. If a `ConvexSpace R R` instance causes a diamond later, we can deal with it then.

File: Mathlib/LinearAlgebra/ConvexSpace/AffineSpace.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/ConvexSpace/AffineSpace.lean]: @kim-em What happened here? That commit seems to belong to a branch on the main repo, rather than on a branch on the fork hosting the branch of this PR.

Did GitHub's "Apply suggestion" fail or maybe this action was taken by a bot which did the wrong thing?

Comment (kim-em) [reply Mathlib/LinearAlgebra/ConvexSpace/AffineSpace.lean]: Sorry about that — I pushed to `origin` (the main repo) instead of my fork.
